US08084448B2
E. N-Sulfamoyl-N-(4-benzenesulfonyl-2-benzyloxyphenyl)glycine Methyl Ester
A solution of N-(t-butoxycarbonylsulfamoyl)-N-(4-benzenesulfonyl-2-benzyloxyphenyl)glycine methyl ester (620 mg, 1.05 mmol) in 10 mL TFA/CH2Cl2 (1:1) is stirred at RT for 30 min. The solvent is removed under reduced pressure and the residue is redissolved in CH2Cl2 and restripped (4×). The residual oil is chromatographed on a Biotage 40M column using CH2Cl2/EtOAc (90:10) as eluent to afford the title compound: 1H NMR (CDCl3) δ 7.87 (m, 2H), 7.72 (d, J=8.2 Hz, 1H), 7.60 (m, 2H), 7.50 (m, 3H), 7.41 (m, 5H), 5.18 (s, 2H), 4.92 (br s, 2H), 4.32 (s, 2H), 3.87 (s, 3H); MS (M−1)−=489.

reactant | N-(t-butoxycarbonylsulfamoyl)-N-(4-benzenesulfonyl-2-benzyloxyphenyl)glycine methyl ester | 1.05 mmol, 620 mg | COC(CN(C1=C(C=C(C=C1)S(=O)(=O)C1=CC=CC=C1)OCC1=CC=CC=C1)S(NC(=O)OC(C)(C)C)(=O)=O)=O | C27H30N2O9S2
solvent | TFA CH2Cl2 | 10 mL | C(=O)(C(F)(F)F)O.C(Cl)Cl
product | N-Sulfamoyl-N-(4-benzenesulfonyl-2-benzyloxyphenyl)glycine Methyl Ester | COC(CN(C1=C(C=C(C=C1)S(=O)(=O)C1=CC=CC=C1)OCC1=CC=CC=C1)S(N)(=O)=O)=O | C22H22N2O7S2
